US05538988
A mixture of ethyl 3-(5,7-difluoro-1,2,3,4-tetrahydronaphthalen-2-yl)-2-thioxo-2,3-dihydro-1H-imidazole-4-carboxylate (4.6 g, 13.6 mmol), prepared as in Example 24, and potassium hydroxide (3.14 g, 47.6 mmol) in 130 mL of ethanol/water (10:3) was stirred at 85°-90° C. for 5 hours. The solvent was removed by evaporation and the residue was dissolved in water. The solution was acidified with 1N hydrochloric acid to a pH of 1 giving a crystalline material. Isolation of the material by filtration gave 3-(5,7-difluoro-1,2,3,4-tetrahydronaphthalen-2-yl)-2-thioxo-2,3-dihydro-1H-imidazole-4-carboxylic acid (3.86 g, 12.5 mmol), m.p. 250°-252° C.

reactant | ethyl 3-(5,7-difluoro-1,2,3,4-tetrahydronaphthalen-2-yl)-2-thioxo-2,3-dihydro-1H-imidazole-4-carboxylate | 13.6 mmol, 4.6 g | FC1=C2CCC(CC2=CC(=C1)F)N1C(NC=C1C(=O)OCC)=S | C16H16F2N2O2S
reactant | potassium hydroxide | 47.6 mmol, 3.14 g | [OH-].[K+]
solvent | ethanol water | 130 mL | C(C)O.O
product | 3-(5,7-difluoro-1,2,3,4-tetrahydronaphthalen-2-yl)-2-thioxo-2,3-dihydro-1H-imidazole-4-carboxylic acid | 12.5 mmol, 3.86 g | FC1=C2CCC(CC2=CC(=C1)F)N1C(NC=C1C(=O)O)=S | C14H12F2N2O2S
